US05153318
b) 2-Amino-9-(3-azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-6-propoxy-9H purine
To 500 ml of an aqueous pH 6.0 50 mM citrate buffer, prepared as described in Example 2c, was added 2-amino-6-propoxypurine (0.0985 g, 0.5 mmol) and 3'-azido-3'-deoxythymidine (0.668 g, 2.5 mmol). Solution was achieved by heating the mixture at 50° C. with sonication. A sample was removed as a control. A 25 mL solution of trans-N-deoxyribosylase (Example 2b) at an activity of 1500 units/mL was added. The reaction was heated at 50° C. Seven days later 0.0985 g, 0.5 mmol, of 2-amino-6-propoxypurine was added to the reaction. Eleven days after the reaction was started, another 0.0985 g, 0.5 mmol, of 2-amino-6-propoxypurine was added to the reaction. The reaction was terminated after twenty-three days. The reaction was heated to 80° C. to precipitate the enzyme and then filtered. The aqueous solution was extracted with ethyl acetate to remove the product. The combined ethyl acetate fractions were dried with magnesium sulfate, filtered, and the solvent was removed in vacuo to give a foam. The foam was chromatographed on 180 g of silica gel (230-400 mesh) eluted first with chloroform/methanol (99:1, v/v) then with chloroform/methanol (98:2, v/v). The product containing fractions were combined and the solvent removed in vacuo to give the product as an oil. The oil was dissolved in water and lyophilized to give a solid (56% yield). mp=145°-147° C.

reactant | citrate | 50 mM, pH 6.0 | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
reactant | 2-amino-6-propoxypurine | 0.5 mmol, 0.0985 g | NC1=NC(=C2NC=NC2=N1)OCCC | C8H11N5O
reactant | 3'-azido-3'-deoxythymidine | 2.5 mmol, 0.668 g | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1 | C10H13N5O4
product | 2-Amino-9-(3-azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-6-propoxy-9H purine | NC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@@H]([C@H](O1)CO)N=[N+]=[N-])OCCC | C13H18N8O3
